Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Gastrointestinal bleed
 
Major Surgical or Invasive Procedure:
___: EGD
___: ___ embolization of gastroduodenal artery
 
History of Present Illness:
Ms. ___ is a ___ year old woman with multiple cancers including 
pancreatic and papillary renal now s/p C18 of gemcitabine last 
given ___ who presented to ED with hematemesis.

Her hematocrit fell from 21 to 18 though she was hemodynamically 
stable. In ED, NG lavage revealed clots. She had 2 20G PIVs and 
16G EJ placed. She was then transferred for EGD on ___. 
Her bleeding was initially thought to be secondary to a 
___ tear clinically. However, an EGD revealed a large 
fungating mass in her stomach and duodenum with an overlying 
clot, concerning for erosion. 

Throughout the EGD, she remained hemodynamically stable on 2L 
O2, mentating at her baseline with no further episodes of 
emesis.

She was placed on a PPI gtt and underwent a CTA abdomen which 
revealed an irregular gastroduodenal artery concerning for tumor 
involvement. She underwent ___ guided embolization of the 
gastroduodenal artery, was subsequently stabilized in the ICU 
and transferred to the floor where she appeared comfortable and 
denied any pain.

 
Past Medical History:
- Pancreatic neck cancer 
- Stage IA lung adenocarcinoma s/p left lower lobe nodule wedge 
resection via VATS ___  
- Renal Papillary cancer s/p left radical nephrectomy ___ - 
Dementia
- GERD 
- Gout
- Hypercholesterolemia
- Hypertension
- Uterine fibroids
- kidney ?intersect in ___
- right breast ductal hyperplasia
- Primary hyperparathyroidism s/p left parathyroidectomy ___ 

 
Social History:
___
Family History:
Father: Lung cancer  
Sister: ___ cancer  
Sister: ___ cancer  

 
Physical Exam:
FICU Admission Exam:
VS:  107/86  HR 79  sat 96%
Gen: NAD, lying comfortably in bed
HEENT: clear OP
CV: NR, RR, no murmur
Pulm: CTAB, nonlabored
Abd: NT, ND, soft
Ext: no edema
Skin: no lesions noted
Neuro: alert, oriented to "___," ___ self, but not 
to year or situation.
Psych: appropriate

OMED Discharge Exam:
Vitals: 98.0 140/80 83 20 100% 
Gen: NAD, very pleasant lying comfortably in bed, answers 
questions appropriately, though has evidence of short term 
memory loss, often times unaware that she has cancer. 
HEENT: Clear OP, sclera anicteric 
CV: NR, RR, no murmur
Pulm: CTAB, nonlabored
Abd: Soft, mild TTP in epigastrum and RUQ 
Ext: Warm and well perfused, no edema 
Skin: No lesions noted
Groin: Large right sided groin hematoma, with mild tenderness to 
palpation, no palpable fluid collection. 
Neuro: Oriented to self and "___", but not to year or 
situation

 
Pertinent Results:
CTA Abd/Pelv ___: IMPRESSION:
IMPRESSION:
 
1.No definite evidence of active bleeding.  The gastroduodenal 
artery
appears irregular in contour which can probably be explained by 
tumor
involvement.  A locally invasive pancreatic mass appears similar 
to perhaps
increased slightly but change in tumor burden is not shown 
conclusively and it is difficult to compare to the prior study 
because of differences in technique (prior study was performed 
without intravenous contrast).  Surrounding fat stranding 
appears stable and is likely secondary to post-radiation 
changes. 
2.Large new ulceration at the pylorus and proximal duodenum into 
the tumor, corresponding to the endoscopy finding.
3.Increased density within the lumen of the small and large 
bowel, in the
absence of recent oral contrast administration, is likely 
secondary to blood products. 

___ PROCEDURE: 
1.  Triple-lumen catheter placement, right IJ, using ultrasound 
and
fluoroscopy.  
2.  Celiac artery angiogram.  
3.  Coil embolization of the gastroduodenal artery.  
4.  SMA angiogram.  

FINDINGS:
1.Gastroduodenal artery with irregular branches supplying mass 
in the
duodenum. 
2.The SMA did not appear to supply the tumor or show active 
extravasation.  
3.Patent and compressible right internal jugular vein 
 
IMPRESSION:
1.Successful embolization of the gastroduodenal artery. 
2.Uncomplicated placement of a triple lumen catheter via the 
right internal
jugular vein. The tip terminates in the SVC and is ready for 
use. 
3.Small hematoma at the right femoral artery access site.  
 
ADMISSION LABS

___ 08:03AM BLOOD WBC-4.1  Hgb-6.2* Hct-18.2* Plt ___
___ 02:30PM BLOOD WBC-3.0* Hgb-7.4* Hct-21.6* Plt ___
___ 01:50AM BLOOD Hgb-9.1* Hct-26.7*
___ 10:31AM BLOOD WBC-3.2* Hgb-8.5* Hct-24.3* Plt Ct-91*
___ 05:53PM BLOOD WBC-4.1  Hgb-8.4* Hct-24.6* Plt Ct-76*
___ 03:52AM BLOOD ___ PTT-36.8* ___
___ 12:46PM BLOOD ___
___ 03:45AM BLOOD Glucose-200* UreaN-40* Creat-1.5* Na-127* 
K-5.0 Cl-97 HCO3-20* AnGap-15
___ 03:52AM BLOOD Glucose-114* UreaN-21* Creat-1.1 Na-137 
K-3.8 Cl-102 HCO3-18* AnGap-21*
___ 12:32PM BLOOD ALT-13 AST-13 LD(LDH)-139 AlkPhos-193* 
TotBili-1.3
___ 03:52AM BLOOD Albumin-4.0 Calcium-10.1 Phos-2.9 Mg-2.4
___ 09:32AM BLOOD Lactate-1.0

DISCHARGE LABS

___ 05:38AM BLOOD WBC-8.8 RBC-2.47* Hgb-7.9* Hct-23.1* 
MCV-93 MCH-32.1* MCHC-34.3 RDW-17.8* Plt ___
___ 05:38AM BLOOD Plt ___
___ 05:38AM BLOOD Glucose-89 UreaN-16 Creat-1.0 Na-132* 
K-3.8 Cl-103 HCO3-20* AnGap-13
___ 06:20AM BLOOD ALT-17 AST-24 LD(LDH)-200 AlkPhos-204* 
TotBili-0.4
___ 05:38AM BLOOD Calcium-9.3 Phos-2.9 Mg-2.0
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with pancreatic cancer s/p 
chemo/XRT who presented with hematemesis and was found to have a 
large mass on EGD and CTA. 

ACUTE ISSUES:
# GI Bleed, upper: Ms. ___ presented with hematemesis and EGD 
___ revealed a large fungating mass in the stomach and 
duodenum with an overlying clot. After lengthy discussion about 
contrast contraindication (nephrogenic systemic sclerosis 
history), a CTA abd/pelv ___ was obtained to assess for 
bleeding and suggested the the mass was secondary to erosive 
pancreatic cancer. A central line was placed by ___ on ___. She 
underwent ___ embolization of the gastroduodenal artery on ___ 
with subsequent nausea, but stable vitals post-procedure. Her 
medical management included pantoprazole gtt, NPO, transfusion 
of 3 units PRBCs on ___, and 2 units on ___. She received 5mg 
vitamin K on ___ for an INR of 1.4. Another 5mg of PO vitamin K 
was given on ___ for elevated INR. DIC work up was negative. Her 
diet was advanced to clears ___ and to a regular diet on ___ 
with no further hematemesis, melena, hematochezia. Her 
hematocrit trended down slowly on the floor and she underwent 
another 2 unit transfusion. She will likely continue to trend 
down slowly and may need subsequent transfusions in the future. 
She should undergo another hematocrit check on ___ during her 
next scheduled heme/onc appointment. 

# Pancreatic Cancer: She is followed by Dr. ___ ___. 
She is on gemcitabine with the last dose on ___. Radiation 
oncology determined that she is not a candidate for repeat XRT 
to the area, given recent radiation in ___ and risk of 
perforation with repeat radiation. A goals of care discussion 
revealed a desire to pursue treatment and she will follow up in 
___ clinic for further discussion of treatment options.  

CHRONIC/STABLE ISSUES:
#HTN: Atenolol was held during her hospitalizaztion given her 
high risk for bleeding, and was restarted on discharge.

==============
Transitional issues:
1. H/H check on ___
2. Follow up on R groin hematoma, outlined on discharge to 
ensure no significant continued increase in size

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 8 mg PO Q8H:PRN nausea 
2. Dexamethasone 4 mg PO DAILY:PRN chemo 
3. BuPROPion 100 mg PO BID 
4. Allopurinol ___ mg PO DAILY 
5. Lorazepam 0.5 mg PO Q6H:PRN nausea/vomiting following 
chemotherapy 
6. Atenolol 25 mg PO DAILY 
7. Gemfibrozil 600 mg PO BID 
8. galantamine 8 mg Oral daily 
9. Metoclopramide ___ mg PO TID:PRN nausea/vomiting take 
standing for two days following chemotherapy. then as needed 
10. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1. Allopurinol ___ mg PO DAILY 
2. BuPROPion 100 mg PO BID 
3. galantamine 8 mg Oral daily 
4. OxycoDONE (Immediate Release)  2.5 mg PO Q2H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every ___ hours Disp #*20 
Tablet Refills:*0
5. Atenolol 25 mg PO DAILY 
6. Gemfibrozil 600 mg PO BID 
7. Dexamethasone 4 mg PO DAILY:PRN chemo 
8. Lorazepam 0.5 mg PO Q6H:PRN nausea/vomiting following 
chemotherapy 
9. Metoclopramide ___ mg PO TID:PRN nausea/vomiting take 
standing for two days following chemotherapy. then as needed 
10. Ondansetron 8 mg PO Q8H:PRN nausea 
11. Omeprazole 20 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pancreatic cancer
Upper GI bleed

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because you were bleeding from 
your gastrointesintal tract. You received blood transfusions to 
replete the blood that you had lost. You underwent imaging of 
your gastrointesintal tract and the bleeding is thought to be 
secondary to an extent of your pancreatic cancer. You underwent 
a procedure to prevent further episodes of bleeding. We 
discussed your treatment plan with the radiation oncology team 
who determined that you do not require repeat radiation. You 
will follow up with Dr. ___ management and decisions 
regarding further chemotherapy. 

Thank you for allowing us to be a part of your care,
Your ___ treatment team. 
 
Followup Instructions:
___